US04892870
A mixture of 6 g (33.3 mmol) of 4-bromo-2-methyl-3-isoxazolidinone, 7 g (30 mmol) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 3.25 g (50 mmol) of zinc dust in 125 ml of benzene was refluxed with stirring. One hour later another 3 g of zinc dust was added and, after refluxing for an additional 17 hours, the reaction mixture was stirred for five minutes with 200 ml of methylene chloride and 150 ml of 0.5N hydrochloric acid. The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated to yield 10 g of crude material. This material was chromatographed on silica gel with 80% ethyl acetatehexane and recrystallized from ether-hexane to afford 5.7 g (17.1 mmol, 57%) of 4-[(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxymethyl]-2-methyl-3-isoxazolidinone, mp 137°-140° C.

reactant | 4-bromo-2-methyl-3-isoxazolidinone | 33.3 mmol, 6 g | BrC1C(N(OC1)C)=O | C4H6BrNO2
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 30 mmol, 7 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | hydrochloric acid | 0.5N, 150 ml | Cl | ClH
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | 50 mmol, 3.25 g | [Zn] | Zn
catalyst | zinc | 3 g | [Zn] | Zn
product | 4-[(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxymethyl]-2-methyl-3-isoxazolidinone | 17.1 mmol, 5.7 g, 57% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C1C(N(OC1)C)=O)O | C19H29NO4
